US08067426B2
Intermediate 47: 8-(Methyloxy)-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
A solution of sodium methoxide in methanol (0.5M, 20 ml, 10 mmol) was added to a solution of 8-bromo-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2.368 g, 5.95 mmol) in methanol (10 ml) and the mixture heated under reflux for 5 hours. More sodium methoxide in methanol (4 ml, 2 mmol) was added and the mixture refluxed for a further 2 hours and then cooled and evaporated. The residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The organic phase was separated, washed with saturated brine, dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was dissolved in dichloromethane and purified on an aminopropyl (NH2) cartridge (100 g) using a 0-100% ethyl acetate in cyclohexane gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a white foam (1.725 g).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 8-bromo-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 5.95 mmol, 2.368 g | BrC=1N(C2=NC(=NC(=C2N1)N)O[C@H](CCCC)C)C1OCCCC1 | C16H24BrN5O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2 mmol, 4 ml | CO | CH4O
solvent | methanol | 10 mmol, 0.5M, 20 ml | CO | CH4O
product | 8-(Methyloxy)-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.725 g | COC=1N(C2=NC(=NC(=C2N1)N)O[C@H](CCCC)C)C1OCCCC1 | C17H27N5O3
